US07772285B2
9.10 g of (4-bromo-3-methylphenyl)methanol was dissolved in 91 mL of methylene chloride and cooled to 5° C., to which 19.7 mL of N-ethyldiisopropylamine and 6.9 mL of chloromethyl methyl ether were successively added dropwise at 5 to 10° C., and then this mixture was stirred for 2.5 hours at room temperature. Water was added to the reaction mixture and adjusted to pH 7 with 6M hydrochloric acid, and then the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous sodium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=5:1] to yield 10.44 g of 1-bromo-4-[(methoxymethoxy)methyl]-2-methylbenzene as yellow oil.

reactant | (4-bromo-3-methylphenyl)methanol | 9.10 g | BrC1=C(C=C(C=C1)CO)C | C8H9BrO
reactant | N-ethyldiisopropylamine | 19.7 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 6.9 mL | COCCl | C2H5ClO
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | methylene chloride | 91 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 1-bromo-4-[(methoxymethoxy)methyl]-2-methylbenzene | 10.44 g | BrC1=C(C=C(C=C1)COCOC)C | C10H13BrO2
